US08703768B2
Step 2: 6-Methoxymethyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide
The product was obtained starting from 6-methoxymethyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (30 mg, 0.12 mmol) and 4-amino-2-methyl-2H-pyrazole-3-carboxylic acid methylamide (23 mg, 0.15 mmol) according to the method described in example 64, step 6 after purification by preparative HPLC using an acetonitrile/water gradient as off-white solid (28 mg, 61%).

reactant | 6-methoxymethyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid | 0.12 mmol, 30 mg | COCC1=CC=C(C(=N1)C(=O)O)NC=1C=NC=NC1 | C12H12N4O3
reactant | 4-amino-2-methyl-2H-pyrazole-3-carboxylic acid methylamide | 0.15 mmol, 23 mg | CNC(=O)C=1N(N=CC1N)C | C6H10N4O
product | 6-Methoxymethyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide | CN1N=CC(=C1C(NC)=O)NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)COC | C18H20N8O3
